US09169254B2
A 3.3 M Red-Al solution in toluene (0.25 ml, 0.82 mmol) was added to a solution of 4-(3,3-difluoro-allyl)-cyclohexanecarboxylic acid benzyl ester (cis:trans=5.4:1) (42.8 mg, 0.145 mmol) in toluene (0.12 mL), and the mixture was stirred at 85° C. for 17 hours. The reaction mixture was poured into ice water, adjusted to pH 3 with a 4 N aqueous H2SO4 solution and extracted with ether. The organic layer was dried over MgSO4 and concentrated under reduced pressure to give [4-((E)-3-fluoro-allyl)-cyclohexyl]-methanol (25.0 mg, 100%).

reactant | Red-Al | 3.3 M | COCCO[AlH2-]OCCOC.[Na+]
reactant | 4-(3,3-difluoro-allyl)-cyclohexanecarboxylic acid benzyl ester | 0.145 mmol, 42.8 mg | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)CC=C(F)F | C17H20F2O2
reactant | H2SO4 | 4 N | OS(=O)(=O)O | H2O4S
solvent | toluene | 0.12 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.82 mmol, 0.25 ml | C1(=CC=CC=C1)C | C7H8
product | [4-((E)-3-fluoro-allyl)-cyclohexyl]-methanol | 25.0 mg, 100% | F/C=C/CC1CCC(CC1)CO | C10H17FO
